### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 1]
```diff
@@ -320,7 +320,7 @@ theorem tendsto_iff_forall_integral_tendsto {γ : Type*} {F : Filter γ}
         Tendsto (fun i ↦ ∫ ω, f ω ∂(μs i : Measure Ω)) F (𝓝 (∫ ω, f ω ∂(μ : Measure Ω))) := by
   rw [tendsto_nhds_iff_toFiniteMeasure_tendsto_nhds]
   rw [FiniteMeasure.tendsto_iff_forall_integral_tendsto]
-  rfl
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean:323]: Can the rw on the line above be combined? (optional)

File: Mathlib/Algebra/Module/End.lean [hunk 2]
```diff
@@ -38,13 +38,8 @@ This is a stronger version of `DistribMulAction.toAddMonoidEnd` -/
...
 def Module.toAddMonoidEnd : R →+* AddMonoid.End M :=
   { DistribMulAction.toAddMonoidEnd R M with
-    -- Porting note: the two `show`s weren't needed in mathlib3.
-    -- Somehow, now that `SMul` is heterogeneous, it can't unfold earlier fields of a definition for
-    -- use in later fields.  See
-    -- https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Heterogeneous.20scalar.20multiplication
-    -- TODO(jmc): there should be a rw-lemma `smul_comp` close to `SMulZeroClass.compFun`
-    map_zero' := AddMonoidHom.ext fun r => show (0 : R) • r = 0 by simp
-    map_add' := fun x y =>
+    map_zero' := AddMonoidHom.ext fun r => by simp
```
Comment (grunweg) [inline Mathlib/Algebra/Module/End.lean:41]: @jcommelin Do you think the TODO can be removed now? A quick loogle search doesn't find an immediate match for such a lemma.

**Review by grunweg — COMMENTED** [review]
Thanks! One question, otherwise LGTM
maintainer delegate

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by Ruben-VandeVelde** [comment]
bors merge
